US07968573B2
To a mixture of 0.44 g of 3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxylic acid, 6 ml of acetonitrile and 0.20 g of triethylamine was added 0.125 ml of methanesulfonyl chloride. After the resulting mixture was stirred at room temperature for 15 minutes, 0.27 g of 2-amino-5-chloro-3-methylbenzoic acid was added and the mixture was stirred at room temperature for 20 minutes. To the mixture, 0.40 ml of triethylamine was added. After the mixture was stirred at room temperature for 20 minutes, 0.13 ml of methanesulfonyl chloride was added and the mixture was stirred at room temperature for 16 hours. The reaction mixture was filtered and the filter cake was washed with methyl tert-butyl ether. The resulting filter cake was dissolved in ethyl acetate, washed successively with water and an aqueous saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to obtain 0.098 g of 2-[3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazol-5-yl]-6-chloro-8-methyl-4H-3,1-benzoxazine-4-one. In addition, the filtrate was concentrated under reduced pressure, and the resulting residue was subjected to silica gel column chromatography to obtain 0.093 g of 2-[3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazol-5-yl]-6-chloro-8-methyl-4H-3,1-benzoxazine-4-one of the formula:

reactant | 3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxylic acid | 0.44 g | BrC1=NN(C(=C1)C(=O)O)C1=NC=CC=C1Cl | C9H5BrClN3O2
reactant | acetonitrile | 6 ml | C(C)#N | C2H3N
reactant | methanesulfonyl chloride | 0.125 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-amino-5-chloro-3-methylbenzoic acid | 0.27 g | NC1=C(C(=O)O)C=C(C=C1C)Cl | C8H8ClNO2
reactant | methanesulfonyl chloride | 0.13 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | triethylamine | 0.40 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 0.20 g | C(C)N(CC)CC | C6H15N
product | 2-[3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazol-5-yl]-6-chloro-8-methyl-4H-3,1-benzoxazine-4-one | 0.098 g | BrC1=NN(C(=C1)C1=NC2=C(C(O1)=O)C=C(C=C2C)Cl)C2=NC=CC=C2Cl | C17H9BrCl2N4O2
